US06462056B1
A solution of 5-(methanesulfonyloxymethyl)-3-p-methoxyphenyloxazolidin-2-one [obtainable by reacting 2,3-epoxypropanol with N-benzyl-p-methoxyaniline to give 1-(N-benzyl-p-methoxyanilinopropane-2,3-diol, hydrogenolysis to give 1-p-methoxyanilinopropane-2,3-diol, reacting with diethyl carbonate to give 5-hydroxymethyl-3-p-methoxyphenyloxazolidin-2-one and reaction with CH3SO2Cl] in acetonitrile is mixed with equimolar amounts of 4-(3-indolyl)piperidine (“A”), potassium iodide and potassium carbonate, heated under reflux for 16 hours and then subjected to the usual workup. This results in 3-(4-methoxyphenyl)-5-[4-(3-indolyl)-1-piperidinylmethyl]oxazolidin-2-one, m.p. 151-153°.

reactant | 5-(methanesulfonyloxymethyl)-3-p-methoxyphenyloxazolidin-2-one | CS(=O)(=O)OCC1CN(C(O1)=O)C1=CC=C(C=C1)OC | C12H15NO6S
reactant | 2,3-epoxypropanol | O1C(CO)C1 | C3H6O2
reactant | N-benzyl-p-methoxyaniline | C(C1=CC=CC=C1)NC1=CC=C(C=C1)OC | C14H15NO
product | N-benzyl-p-methoxyanilinopropane-2,3-diol | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)OC)CC(CO)O | C17H21NO3
